US03954732
2,2,2-Trichloroethyl 2-bromomethyl-2-methyl-6-(2-phenylacetamido)penam-3-carboxylate (1.10 g) dissolved in methylene chloride (15 ml). To this solution was added aniline (0.28 g) under cooling at -10°C and then silver fluoroborate (0.43 g), after which the mixture was stirred for 2 hours. After the reaction was completed, the reaction mixture was washed with a dilute phosphoric acid aqueous solution and then with water, dried over magnesium sulfate, after which the solvent was distilled off. The residue was subjected to column chromatography on silica gel (20 g) and eluted with chloroform. The eluate was separated into fractions of each about 20 ml. The second to seventh fractions were collected and the solvent was distilled off to give 2,2,2-trichloroethyl 2-anilinomethyl-2-methyl-6-(2-phenylacetamido)-penam-3-carboxylate (0.84 g), mp 148° to 149°C. Infrared Absorption Spectrum (CHCl3) 3400, 1780, 1765, 1680 cm-1.

reactant | 2,2,2-Trichloroethyl 2-bromomethyl-2-methyl-6-(2-phenylacetamido)penam-3-carboxylate | 1.10 g | BrCC1(S[C@H]2N(C1C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CC2=CC=CC=C2)=O)=O)C | C18H18BrCl3N2O4S
reactant | aniline | 0.28 g | NC1=CC=CC=C1 | C6H7N
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
catalyst | silver fluoroborate | 0.43 g | F[B-](F)(F)F.[Ag+]
product | 2,2,2-trichloroethyl 2-anilinomethyl-2-methyl-6-(2-phenylacetamido)-penam-3-carboxylate | 0.84 g | N(C1=CC=CC=C1)CC1(S[C@H]2N(C1C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CC2=CC=CC=C2)=O)=O)C | C24H24Cl3N3O4S
